US08232284B2
Preparation of 3-chloro-N-[2-(dimethylamino)ethyl]-N-methyl-2-({4-[(1-methyl-1H-pyrazol-3-yl)amino]quinazolin-6-yl}oxy)isonicotinamide
3-Chloro-N-[2-(dimethylamino)ethyl]-2-fluoro-N-methylisonicotinamide (116 mg, 0.45 mmol) and potassium tert-butoxide (70 mg, 0.62 mmol) were added to an N,N-dimethylacetamide solution (1 ml) of 4-[(1-methyl-1H-pyrazol-3-yl)amino]quinazolin-6-ol (650 mg, 0.25 mmol), and stirred under a nitrogen atmosphere at 80° C. for 2 hours. The reaction solution was cooled to room temperature, water was added, and extracted with chloroform. The organic layer was washed with water, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The obtained residue was purified by amine-type silica gel column chromatography (Biotage NH, hexane:ethyl acetate to chloroform:methanol=1:3 to 100:2) to obtain the entitled compound (101 mg, yield: 84%) as a pale yellow amorphous solid.

reactant | 3-Chloro-N-[2-(dimethylamino)ethyl]-2-fluoro-N-methylisonicotinamide | 0.45 mmol, 116 mg | ClC1=C(C(=O)N(C)CCN(C)C)C=CN=C1F | C11H15ClFN3O
reactant | potassium tert-butoxide | 0.62 mmol, 70 mg | CC(C)([O-])C.[K+]
reactant | N,N-dimethylacetamide | 1 ml | CN(C(C)=O)C | C4H9NO
reactant | 4-[(1-methyl-1H-pyrazol-3-yl)amino]quinazolin-6-ol | 0.25 mmol, 650 mg | CN1N=C(C=C1)NC1=NC=NC2=CC=C(C=C12)O | C12H11N5O
solvent | water | O | H2O
product | 3-chloro-N-[2-(dimethylamino)ethyl]-N-methyl-2-({4-[(1-methyl-1H-pyrazol-3-yl)amino]quinazolin-6-yl}oxy)isonicotinamide | 101 mg, yield: 84% | ClC1=C(C(=O)N(C)CCN(C)C)C=CN=C1OC=1C=C2C(=NC=NC2=CC1)NC1=NN(C=C1)C | C23H25ClN8O2
